US04612386
A mixture of 6.93 g (0.05 mole) of 2-chloroethyl methyl carbonate, 7.03 g (0.05 mole) of benzoyl chloride and 0.85 g (0.0025 mole) of tetra-n-butylphosphonium bromide was heated to 150° C. After 3 hours, gas evolution had ceased and distillation gave 5.44 g (59 percent yield) of 2-chloroethyl benzoate at b.p. 81° C.-82° C./0.4 mm Hg.

reactant | 2-chloroethyl methyl carbonate | 0.05 mole, 6.93 g | C(OCCCl)(OC)=O | C4H7ClO3
reactant | benzoyl chloride | 0.05 mole, 7.03 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
catalyst | tetra-n-butylphosphonium bromide | 0.0025 mole, 0.85 g | [Br-].C(CCC)[P+](CCCC)(CCCC)CCCC
product | 2-chloroethyl benzoate | 5.44 g, 59 percent yield | C(C1=CC=CC=C1)(=O)OCCCl | C9H9ClO2
